US04107326
1-(2,6-Dichlorobenzylideneamino)-3-[m-(trifluoromethyl)-benzylidene]guanidine hydrochloride
A solution of 4.88 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide (U.S. Pat. No. 3,657,337) and 4.37 g. of m-(trifluoromethyl)benzylamine [F. N. Freidfelder and Y. H. Ng, J. Pharm. Sci., 54, 1204 (1965)] in 270 ml. of absolute ethanol is heated at reflux for 18 hours. The solution is cooled, made basic with 2N NaOH and the solvent is removed under reduced pressure. The yellow residue is triturated with dichloromethane and the triturate is evaporated under reduced pressure to give a yellow oil. A diethyl ether solution of this oil is treated with ethanolic hydrogen chloride. Filtration gives colorless crystals which are recrystallized from ethanol-diethyl ether, giving the desired product as colorless crystals, m.p. 165°-167° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | m-(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | NaOH | 2N | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 1-(2,6-Dichlorobenzylideneamino)-3-[m-(trifluoromethyl)-benzylidene]guanidine hydrochloride | Cl.ClC1=C(C=NNC(=N)N=CC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)Cl | InChI=1S/C16H11Cl2F3N4.ClH/c17-13-5-2-6-14(18)12(13)9-24-25-15(22)23-8-10-3-1-4-11(7-10)16(19,20)21;/h1-9H,(H2,22,25);1H
